US08119633B2
2-(1,2,3,4-Tetrahydroisoquinolin-1-yl)acetic acid methyl ester
2-(1,2,3,4-Tetrahydroisoquinolin-1-yl)acetic acid (7.90 g, 41.3 mmol) was dissolved in methanol (200 ml), and H2SO4 (4.4 ml, 82.6 mmol) was added under a nitrogen atmosphere. The reaction solution was heated under reflux and, when the reaction was complete, was stirred overnight at room temperature. The methanol was removed in vacuo and the resulting residue was taken up in ethyl acetate (200 ml). The solution was washed with saturated NaHCO3 solution (150 ml), dried (sodium sulfate) and concentrated.

reactant | 2-(1,2,3,4-Tetrahydroisoquinolin-1-yl)acetic acid | 41.3 mmol, 7.90 g | C1(NCCC2=CC=CC=C12)CC(=O)O | C11H13NO2
reactant | H2SO4 | 82.6 mmol, 4.4 ml | OS(=O)(=O)O | H2O4S
reactant | methanol | 200 ml | CO | CH4O
product | 2-(1,2,3,4-Tetrahydroisoquinolin-1-yl)acetic acid methyl ester | COC(CC1NCCC2=CC=CC=C12)=O | C12H15NO2
